US03975537
To a cooled (ice bath) mixture of 9.4 g. (0.054 mol.) of 2-n-butylbenzofuran and 11.5 g. (0.058 mol.) of 3,5-dimethyl-4-methoxybenzoic acid chloride in 100 ml. of methylene chloride was added dropwise 28.7 g. (0.11 mol.) of stannic chloride. The reaction mixture was allowed to warm to ambient temperature, then stirred for 2 hours. Water was slowly added to the mixture and it was stirred an additional 30 minutes. The layers were separated and the organic phase was washed with water until the washings were neutral, dried (MgSO4) and concentrated to give 2-n-butyl-3-(3',5'-dimethyl-4'-methoxybenzoyl)benzofuran.

reactant | 2-n-butylbenzofuran | 0.054 mol | C(CCC)C=1OC2=C(C1)C=CC=C2 | C12H14O
reactant | 3,5-dimethyl-4-methoxybenzoic acid chloride | 0.058 mol | CC=1C=C(C(=O)Cl)C=C(C1OC)C | C10H11ClO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-n-butyl-3-(3',5'-dimethyl-4'-methoxybenzoyl)benzofuran | C(CCC)C=1OC2=C(C1C(C1=CC(=C(C(=C1)C)OC)C)=O)C=CC=C2 | C22H24O3
